US07781436B2
2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide
Following general procedure II, the alkylation of {6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid (preparation described herein), with (commercially available) (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester gave, after treatment with HCl and neutralisation, the title compound.

reactant | {6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H19ClFN3O3
reactant | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | HCl | Cl | ClH
product | 2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NCCNC)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C24H27ClFN5O2
